US07402595B2
4-[4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)phenylsulfamoyl]benzoic acid
In the same manner as in Example 377, 3-acetyl-2-(4-aminobenzyl)-6-bromo-4-phenyl-2H-isoquinolin-1-one was reacted with 4-carboxybenzenesulfonyl chloride to give the title compound. yield: 45 mg (26%)

reactant | 3-acetyl-2-(4-aminobenzyl)-6-bromo-4-phenyl-2H-isoquinolin-1-one | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)N | C24H19BrN2O2
reactant | 4-carboxybenzenesulfonyl chloride | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H5ClO4S
product | 4-[4-(3-acetyl-6-bromo-1-oxo-4-phenyl-1H-isoquinolin-2-ylmethyl)phenylsulfamoyl]benzoic acid | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C31H23BrN2O6S
